US06462035B1
E) 5-Methoxytricyclo[7.2.1.02,7]dodeca-2(7),3.5.10-tetraene
5-Methoxytricyclo[7.2.1.02,7]dodeca-2(7),3,5,10-tetraene-8-one (9.41 g, 47 mmol) and pulverized potassium hydroxide (KOH) (6.17 g, 110 mmol) were warmed in ethylene glycol (50 mL) until solution occurred. The mixture was cooled to rt, treated with hydrazine hydrate (6 mL, 190 mmol) and heated to reflux for 2 hours. The reflux condenser was replaced with a distilling head and distillates were collected from 120-190° C. The distillates were diluted with H2O (100 mL) and extracted with EtOAc (4×40 mL). The organic layer was washed with H2O (4×30 mL), brine (25 mL), dried (MgSO4), filtered and concentrated to an oil (8.2 g, 94%). (TLC 25%EtOAc/hexanes Rf 0.68). 1H NMR (CDCl3) δ6.92 (d, J=8.0 Hz, 1H), 6.88 (m, 2H), 6.25 (dd, J=5.1,2.5 Hz, 1H), 5.79 (dd, J=5.1,2.4 Hz, 1H), 3.77 (s, 3H), 3.31 (br s, 1H), 3.01-2.94 (2H), 2.56 (d, J=16.5 Hz, 1H), 2.22 (m, 1H), 1.85 (d, J=10.0 Hz, 1H). GCMS m/e 186 (M+).

reactant | 5-Methoxytricyclo[7.2.1.02,7]dodeca-2(7),3,5,10-tetraene-8-one | 47 mmol, 9.41 g | COC=1C=CC=2C3C=CC(C(C2C1)=O)C3 | C13H12O2
reactant | potassium hydroxide | 110 mmol, 6.17 g | [OH-].[K+]
reactant | hydrazine hydrate | 190 mmol, 6 mL | O.NN
solvent | ethylene glycol | 50 mL | C(CO)O | C2H6O2
product | 5-Methoxytricyclo[7.2.1.02,7]dodeca-2(7),3.5.10-tetraene | COC=1C=CC=2C3C=CC(CC2C1)C3 | C13H14O
